US07018988B2
(2S,4EZ)-1-benzoyl-N-(2-furylmethyl)-4-{[(4-methoxybenzyl)oxy]imino}-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-{[(4-methoxybenzyl)oxy]imino}-2-pyrrolidinecarboxylic acid, benzoyl chloride, and 2-furylmethylamine the title compound was obtained in 40% purity by LC/MS. MS(ESI+): m/z=448.2.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-{[(4-methoxybenzyl)oxy]imino}-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOCC1=CC=C(C=C1)OC)C(=O)O | C18H24N2O6
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 2-furylmethylamine | O1C(=CC=C1)CN | C5H7NO
product | (2S,4EZ)-1-benzoyl-N-(2-furylmethyl)-4-{[(4-methoxybenzyl)oxy]imino}-2-pyrrolidinecarboxamide | C(C1=CC=CC=C1)(=O)N1[C@@H](CC(C1)=NOCC1=CC=C(C=C1)OC)C(=O)NCC=1OC=CC1 | C25H25N3O5
